US08426402B2
To a stirred solution of methyl 2-(3,5-bis(hydroxymethyl)phenyl)-5,8,11,14,17,20,23,26,29,32,35,38-dodecaoxa-2-azahentetracontan-41-oate (265d) (71 mg, 0.091 mmol) in anhydrous dichloromethane (1.4 mL) was added triethylamine (0.038 mL, 0.272 mmol). The mixture was cooled to −5° C. and methanesulfonyl chloride (0.018 mL, 0.227 mmol) was added slowly. After stirring for one hour at −5° C. the reaction was quenched with cold water and extracted with cold ethyl acetate. The organic extracts were washed with cold water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give methyl 2-(3,5-bis((methylsulfonyloxy)methyl)phenyl)-5,8,11,14,17,20,23,26,29,32,35,38-dodecaoxa-2-azahentetracontan-41-oate. MS (m/z), found 960.2 (M+Na)+. To a mixture of methyl 2-(3,5-bis((methylsulfonyloxy)methyl)phenyl)-5,8,11,14,17,20,23,26,29,32,35,38-dodecaoxa-2-azahentetracontan-41-oate (69 mg, 0.074 mmol) and compound 8 (54.1 mg, 0.184 mmol) in anhydrous DMF (0.8 mL) was added potassium carbonate (50.8 mg, 0.368 mmol). The reaction was allowed to stir for 18 hours at room temperature. The reaction was quenched with water and extracted twice with dichloromethane. The remaining aqueous layer was extracted twice with 50% MeOH/CH2Cl2. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification by flash silica gel chromatography (5% MeOH/CH2Cl2) followed by preparative reverse phase HPLC (C18 column, eluted with CH3CN/H2O) gave compound 265e (23 mg, 23%). MS (m/z), found 1375.4 (M+Na+H2O)+, 1393.4 (M+Na+2H2O)+.

reactant | methyl 2-(3,5-bis(hydroxymethyl)phenyl)-5,8,11,14,17,20,23,26,29,32,35,38-dodecaoxa-2-azahentetracontan-41-oate | 0.091 mmol, 71 mg | OCC=1C=C(C=C(C1)CO)N(C)CCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCC(=O)OC | C37H67NO16
reactant | triethylamine | 0.272 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.227 mmol, 0.018 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1.4 mL | ClCCl | CH2Cl2
product | methyl 2-(3,5-bis((methylsulfonyloxy)methyl)phenyl)-5,8,11,14,17,20,23,26,29,32,35,38-dodecaoxa-2-azahentetracontan-41-oate | CS(=O)(=O)OCC=1C=C(C=C(C1)COS(=O)(=O)C)N(C)CCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCC(=O)OC | C39H71NO20S2
